US08754073B2
46.1 5-fluoro-2-(4-methylpiperidin-4-yl)-benzoxazole (V-9)
Starting from 2-amino-4-fluorophenol and mono-tert-butyl 4-methylpiperidine-1,4-dicarboxylate (V-9) may be prepared and purified analogously to (V-8) (see 45.1).

reactant | 2-amino-4-fluorophenol | NC1=C(C=CC(=C1)F)O | C6H6FNO
reactant | mono-tert-butyl 4-methylpiperidine-1,4-dicarboxylate | CC1(CCN(CC1)C(=O)OC(C)(C)C)C(=O)[O-]
product | 5-fluoro-2-(4-methylpiperidin-4-yl)-benzoxazole | FC=1C=CC2=C(N=C(O2)C2(CCNCC2)C)C1 | C13H15FN2O
